US06872823B1
(2S)-2-(2,3,4-Trifluoroanilino)propionic acid
To (2S)-2-(2,3,4-trifluoroanilino)propionic acid•(S)-1-phenylethylamine salt (1.0 g; 99% ee) were added IPE (20 ml) and hydrochloric acid (1 mol/l) until the pH value reached 1 and the resultant mixture was stirred at room temperature for 1 hour. The organic layer was dried over anhydrous magnesium sulfate. After evaporating the solvent, 618 mg of the title compound was obtained as colorless crystals. The optical purity of this product was 99% ee. The 1H-NMR and IR spectral data of this product was identical with those of the compound obtained in Example 23.

reactant | (2S)-2-(2,3,4-trifluoroanilino)propionic acid•(S)-1-phenylethylamine | 1.0 g | FC1=C(N[C@H](C(=O)O)C)C=CC(=C1F)F.C1(=CC=CC=C1)[C@H](C)N
reactant | hydrochloric acid | 1 mol/l | Cl | ClH
product | (2S)-2-(2,3,4-Trifluoroanilino)propionic acid | 618 mg | FC1=C(N[C@H](C(=O)O)C)C=CC(=C1F)F | C9H8F3NO2
